US06451821B1
A solution of 11 g of N-[(1RS)-1-hydroxymethyl-2-(2-pyrazinyl)ethyl]acetamide in 30 cm3 of 5N hydrochloric acid is heated at a temperature in the region of 115° C. for 18 hours. The reaction mixture is concentrated under reduced pressure (1 kPa) at a temperature in the region of 40° C. 7.9 g of (2RS)-2-amino-3-(2-pyrazinyl)-1-propanol dihydrochloride are obtained in the form of a black paste [mass spectrum: DCI m/z=154 MH+]

reactant | N-[(1RS)-1-hydroxymethyl-2-(2-pyrazinyl)ethyl]acetamide | 11 g | OCC(CC1=NC=CN=C1)NC(C)=O | C9H13N3O2
reactant | hydrochloric acid | 5N, 30 cm3 | Cl | ClH
product | (2RS)-2-amino-3-(2-pyrazinyl)-1-propanol dihydrochloride | 7.9 g | Cl.Cl.NC(CO)CC1=NC=CN=C1 | InChI=1S/C7H11N3O.2ClH/c8-6(5-11)3-7-4-9-1-2-10-7;;/h1-2,4,6,11H,3,5,8H2;2*1H
